US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-(2-amino-1,3,4-oxadiazole-5-yl)morpholine (57.9 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-[5-(4-morpholinyl)-1,3,4-oxadiazol-2-yl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (10.1 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-(2-amino-1,3,4-oxadiazole-5-yl)morpholine | 57.9 mg | NC=1OC(=NN1)N1CCOCC1 | C6H10N4O2
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-[5-(4-morpholinyl)-1,3,4-oxadiazol-2-yl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 10.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC=2OC(=NN2)N2CCOCC2)=O)C#N | C22H30FN7O4
